US05883049
A methanol (45 mL) solution of 2-(2-chloro-4-methyl-5-methoxycarbonyloxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (2.22 g, 6.08 mmol) and potassium carbonate (0.84 g, 6.08 mmol) was stirred at 50°-60° C. for 7 hours. 1N Hydrochloric acid (60 mL) was added to the resulting mixture, and the organic layer was separated and the aqueous layer was extracted with ethyl acetate (30 mL×2 times). The organic layer combined was washed with a saturated sodium chloride solution (100 mL) and dried over anhydrous magnesium sulfate. After removal of magnesium sulfate by filtration, the filtrate was evaporated to give a white solid of 2-(2-chloro-4-methyl-5-hydroxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (1.74 g, yield:93.0%).

reactant | 2-(2-chloro-4-methyl-5-methoxycarbonyloxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 6.08 mmol, 2.22 g | ClC1=C(C=C(C(=C1)C)OC(=O)OC)N1C(N2C(=CCCC2)C1=O)=O | C16H15ClN2O5
reactant | potassium carbonate | 6.08 mmol, 0.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | Hydrochloric acid | 1N, 60 mL | Cl | ClH
solvent | methanol | 45 mL | CO | CH4O
product | 2-(2-chloro-4-methyl-5-hydroxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 1.74 g, yield:93.0% | ClC1=C(C=C(C(=C1)C)O)N1C(N2C(=CCCC2)C1=O)=O | C14H13ClN2O3
